US07572809B2
Similar procedure as described in example 273 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine and pyridin-2-ylamine to give 6-Methoxy-N3-(5-methyl-1H-pyrazol-3-yl)-N1-pyridin-2-yl-isoquinoline-1,3-diamine. LC-MS m/e 347(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
reactant | pyridin-2-ylamine | N1=C(C=CC=C1)N | C5H6N2
product | 6-Methoxy-N3-(5-methyl-1H-pyrazol-3-yl)-N1-pyridin-2-yl-isoquinoline-1,3-diamine | COC=1C=C2C=C(N=C(C2=CC1)NC1=NC=CC=C1)NC1=NNC(=C1)C | C19H18N6O
